US05656627
Step D. N-(N-Acetyl-tyrosinyl-valinyl-pipecolyl)-3-amino-4-oxobutanoic acid
To a solution of 100 mg of N-(N-Acetyl-tyrosinyl-valinyl-pipecolyl)-4-amino-5-benzyloxy-2-oxotetrahydrofuran in 10 ml of methanol was added 60 mg of Pd(OH)2 on carbon and the mixture placed under an atmosphere of hydrogen via a balloon. The mixture was filtered through Celite and concentrated providing a white solid. This crude solid was dissolved in 2 ml of methanol and triturated with diethyl ether affording 26 mg of the title compound.

reactant | N-(N-Acetyl-tyrosinyl-valinyl-pipecolyl)-4-amino-5-benzyloxy-2-oxotetrahydrofuran | 100 mg | C(C)(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@@H](C(C)C)C(=O)N1C(C(=O)NC2CC(OC2OCC2=CC=CC=C2)=O)CCCC1 | C33H42N4O8
solvent | methanol | 10 ml | CO | CH4O
solvent | methanol | 2 ml | CO | CH4O
catalyst | Pd(OH)2 on carbon | 60 mg | [OH-].[OH-].[Pd+2]
product | N-(N-Acetyl-tyrosinyl-valinyl-pipecolyl)-3-amino-4-oxobutanoic acid | C(C)(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@@H](C(C)C)C(=O)N1C(C(=O)NC(CC(=O)O)C=O)CCCC1 | C26H36N4O8
